US04517195
2-(2-Chlorobenzoyl)-1-methylaminopyrrole
[2-(2-Chlorobenzoyl)-1H-pyrrol-1-yl]-methyl-carbamic acid, ethyl ester (39.2 g, 0.127 mol) was dissolved in 100 ml of ethanol and 200 ml of H2O containing sodium hydroxide (25 g, 0.625 mol). The reaction was refluxed for 18 hours followed by evaporation of the ethanol. The aqueous solution was extracted with three 300 ml portions of ethyl acetate, dried (MgSO4), filtered, and evaporated to give 28 g of an oil. This oil was distilled via Kugelrohr apparatus 125° (0.15 mmHg) to give 26.3 g of a solid. This solid was triturated with hexane to give 25.5 g (85%) of crystals, m.p. 56°-58°.

reactant | [2-(2-Chlorobenzoyl)-1H-pyrrol-1-yl]-methyl-carbamic acid, ethyl ester | 0.127 mol, 39.2 g | ClC1=C(C(=O)C=2N(C=CC2)N(C(OCC)=O)C)C=CC=C1 | C15H15ClN2O3
reactant | H2O | 200 ml | O | H2O
reactant | sodium hydroxide | 0.625 mol, 25 g | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(2-Chlorobenzoyl)-1-methylaminopyrrole | 28 g | ClC1=C(C(=O)C=2N(C=CC2)NC)C=CC=C1 | C12H11ClN2O
